US05489608
36 mg (1.2 mmole) sodium hydride (80% in mineral oil) are suspended under an atmosphere of nitrogen in 50 mL dry dimethylformamide and 365 mg (1 mmole) 12-(2-cyanoethyl)-6,7,12,13-tetrahydro-5-oxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole added portionwise thereto at ambient temperature. After subsidence of the gas evolution, stirring is continued for 1 hour at 20° C. 0.08 mL (1.25 mmole) methyl iodide is then added thereto and stirring continued for 16 hours at ambient temperature. The solvent is distilled off in a vacuum and the residue is chromatographed on silica gel with toluene/ethanol (95:5 v/v). The fraction with an Rf of 0.3 in dichloromethane/methanol (95:5 v/v) is isolated and recrystallized from tetrahydrofuran. 12-(2-cyanoethyl)-6,7,12,13-tetrahydro-13-methyl-5-oxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole is obtained in the form of pale yellow crystals which decompose above 270° C.

reactant | sodium hydride | 1.2 mmole, 36 mg | [H-].[Na+]
reactant | 12-(2-cyanoethyl)-6,7,12,13-tetrahydro-5-oxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole | 1 mmole, 365 mg | C(#N)CCN1C2=CC=CC=C2C=2C3=C(C4=C(C12)NC=1C=CC=CC14)C(NC3)=O | C23H16N4O
reactant | methyl iodide | 1.25 mmole, 0.08 mL | CI | CH3I
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 12-(2-cyanoethyl)-6,7,12,13-tetrahydro-13-methyl-5-oxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole | C(#N)CCN1C2=CC=CC=C2C=2C3=C(C4=C(C12)N(C=1C=CC=CC14)C)C(NC3)=O | C24H18N4O
